* Auto-generated SPICE netlist (NO TEXT OCR USED)

* SAME_NODE_SKIPPED Capacitor both_on=0
* SAME_NODE_SKIPPED V-AC both_on=0
* SAME_NODE_SKIPPED Capacitor both_on=0
* SAME_NODE_SKIPPED Capacitor both_on=0
C1 0 n2 1u
V1 0 n1 AC 1
L1 0 n2 1m

.op
.end
